US09227978B2
4,5-Dichloro-2-ethylbenzenamine
A mixture of 4,5-dichloro-2-vinylbenzenamine (3.0 g, 15.95 mmol), Pd/C (3.3 g, 10%) in MeOH (20 mL) was stirred at room temperature under H2 (1 atm) atmosphere for 4 h. The mixture was filtered and the filtrate was concentrated in vacuo to afford the desired product (2.4 g, 80% yield).

reactant | 4,5-dichloro-2-vinylbenzenamine | 15.95 mmol, 3.0 g | ClC1=CC(=C(C=C1Cl)N)C=C | C8H7Cl2N
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 3.3 g | [Pd] | Pd
product | 4,5-Dichloro-2-ethylbenzenamine | 2.4 g, 80% yield | ClC1=CC(=C(C=C1Cl)N)CC | C8H9Cl2N
